US08633183B2
A-2c) 4-Chloro-5-iodo-6-ethyl-pyrimidin
A suspension of 90 g (0.36 mol) 4-hydroxy-5-iodo-6-ethyl pyrimidine in 600 mL POCl3 is heated for 1 h at 90° C. The reaction mixture is concentrated under reduced pressure and the residue is poured into crushed ice. The precipitated solid is collected by filtration and washed with water. After drying, the desired product is obtained as a solid (65 g; 67%).

reactant | 4-hydroxy-5-iodo-6-ethyl pyrimidine | 0.36 mol, 90 g | OC1=NC=NC(=C1I)CC | C6H7IN2O
reactant | POCl3 | 600 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-5-iodo-6-ethyl-pyrimidin | ClC1=NC=NC(=C1I)CC | C6H6ClIN2
